US05709867
(a) Preparation of 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2,5-imidazolinedione
21.6 g (0.1 mol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthaldehyde and 350 ml of ethanol were introduced into a three-necked flask. A solution of 14.7 g (0.3 mol) of sodium cyanide and 38.4 g (0.4 mol) of ammonium carbonate in 350 ml of water was added and the mixture was heated at 50° C. for 6 hours. The reaction medium was concentrated to 300 ml by evaporation under reduced pressure and then extracted with ethyl ether. The organic phase was decanted off, washed with water, dried over magnesium sulfate and evaporated. 24.9 g (87%) of the intended compound of melting point 213°-214° C. were recovered.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthaldehyde | 0.1 mol, 21.6 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=O)C | C15H20O
reactant | ethanol | 350 ml | C(C)O | C2H6O
reactant | sodium cyanide | 0.3 mol, 14.7 g | [C-]#N.[Na+]
reactant | ammonium carbonate | 0.4 mol, 38.4 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | water | 350 ml | O | H2O
product | 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2,5-imidazolinedione | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1NC(NC1=O)=O)C | C17H22N2O2
